US05695910
A solution of 9-chloromethylanthracene (5.2 g, 23 mmole) obtained in Synthesis Example 2-(1) in ethanol (700 ml) was reacted with stirring for 10 hours at room temperature, poured into H2O (700 ml), and extracted with methylene chloride (500 ml×1). The resulting organic layer was dried over anhydrous MgSO4 and evaporated. The residual crude solid (4.25 g) was recrystallized from 50% THF/H2O to give 4.02 g of 9-ethoxymethylanthracene as orange yellow crystals, mp. 74°-75° C.

reactant | 9-chloromethylanthracene | 23 mmole, 5.2 g | ClCC=1C2=CC=CC=C2C=C2C=CC=CC12 | C15H11Cl
reactant | H2O | 700 ml | O | H2O
reactant | ethanol | 700 ml | C(C)O | C2H6O
product | 9-ethoxymethylanthracene | 4.02 g | C(C)OCC=1C2=CC=CC=C2C=C2C=CC=CC12 | C17H16O
